US06897224B2
4-(5-Fluoro-2-methoxyphenyl)-4-methyl-2-trifluoromethyl-1-(2-(trifluoromethyl)-quinolin-5-ylamino)pentan-2-ol
Analogously to Example 37, 500 mg (0.99 mmol) of 4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-trifluoromethyl-1-(2-(trifluoromethyl)quinolin-5-ylimino)-pentan-2-ol is reacted with 154 mg (4.04 mmol) of sodium borohydride in 5.0 ml of methanol. After purification on silica gel with hexane-ethyl acetate (0-100%), 420 mg (84% of theory) of the product is obtained.

reactant | 4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-trifluoromethyl-1-(2-(trifluoromethyl)quinolin-5-ylimino)-pentan-2-ol | 0.99 mmol, 500 mg | FC=1C=CC(=C(C1)C(CC(C=NC1=C2C=CC(=NC2=CC=C1)C(F)(F)F)(O)C(F)(F)F)(C)C)OC | C24H21F7N2O2
reactant | sodium borohydride | 4.04 mmol, 154 mg | [BH4-].[Na+]
solvent | methanol | 5.0 ml | CO | CH4O
product | 4-(5-Fluoro-2-methoxyphenyl)-4-methyl-2-trifluoromethyl-1-(2-(trifluoromethyl)-quinolin-5-ylamino)pentan-2-ol | FC=1C=CC(=C(C1)C(CC(CNC1=C2C=CC(=NC2=CC=C1)C(F)(F)F)(O)C(F)(F)F)(C)C)OC | C24H23F7N2O2
